US07615642B2
Step C: 1-{[2-(1,1-dimethylpropyl)-1-(tetrahydro-2H-pyran-4-ylmethyl)-1H-benzimidazol-5-yl]sulfonyl}-1H-pyrazole-4-carboxylic acid
Oxone (534 mg, 0.869 mmol) was added to a solution of 1-{[2-(1,1-dimethylpropyl)-1-(tetrahydro-2H-pyran-4-ylmethyl)-1H-benzimidazol-5-yl]sulfonyl}-1H-pyrazole-4-carbaldehyde (322 mg, 0.724 mmol) in DMF (8 mL). The resulting mixture was stirred overnight at room temperature and used directly for step A. MS (ESI) (M+H)+=460.92.

reactant | Oxone | 0.869 mmol, 534 mg | OOS(=O)[O-].[K+]
reactant | 1-{[2-(1,1-dimethylpropyl)-1-(tetrahydro-2H-pyran-4-ylmethyl)-1H-benzimidazol-5-yl]sulfonyl}-1H-pyrazole-4-carbaldehyde | 0.724 mmol, 322 mg | CC(CC)(C)C1=NC2=C(N1CC1CCOCC1)C=CC(=C2)S(=O)(=O)N2N=CC(=C2)C=O | C22H28N4O4S
solvent | DMF | 8 mL | CN(C)C=O | C3H7NO
product | 1-{[2-(1,1-dimethylpropyl)-1-(tetrahydro-2H-pyran-4-ylmethyl)-1H-benzimidazol-5-yl]sulfonyl}-1H-pyrazole-4-carboxylic acid | CC(CC)(C)C1=NC2=C(N1CC1CCOCC1)C=CC(=C2)S(=O)(=O)N2N=CC(=C2)C(=O)O | C22H28N4O5S
